Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fall with seizure 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with a alcohol use disorder c/b 
several falls c/b SDH and seizures, sent to the ED from his 
group home today after a fall with reported seizure activity, 
admitted to the hospital with concern for a multifocal PNA on 
CXR. 

Of note, the patient was discharged from the ED yesterday where 
he was observed overnight after an intoxicated fall and was 
found to have a small left subdural hematoma. Neurosurgery 
evaluated patient and recommended observation and keppra 1g BID 
x7 days. He was discharged on ___ after CT showed that his SDH 
was stable.        
 
Today the patient fell and reportedly had multiple seizures and 
was subsequently given 2mg PO Ativan at 10:30 am. Patient was no 
longer seizing upon EMS arrival or on transfer to the ED.  

In the ED, initial vital signs were: T97.9 P86 BP114/78 R18 
O2:91%RA.  
- Exam notable for: "AOx3, intermittently following commands"   

- Labs were notable for:
 
8.5>14.2/43.3<238

TOX SCREEN - Negative 

Ca: 9.0 Mg: 1.9 P: 6.4

134 |100|16   
------------<103 
9.3 |25 |0.8 
Repeat K: 5.9 -> Insulin -> K: 3.9 

- Studies performed include: 
CXR was taken due to hypoxemia of SpO2 90%RA
IMAGING: 
Diffuse lung disease, likely representing mild pulmonary edema 
with multifocal pneumonia not excluded. 

CT HEAD w/o: 
1. Compared to ___, no new intracranial hemorrhage.
2. No significant change in a leftholohemispheric subdural 
hematoma, measuring 0.4 cm in greatest thickness without 
significant mass effect or midline shift. As before, there is a 
small amount of subdural blood layering on the left tentorium.
  
- Patient was given:
___ 13:50 IV LevETIRAcetam 1 mg  
___ 15:11 IV Calcium Gluconate    
___ 15:11 IV Dextrose 50%    
___ 15:12 IV Insulin Regular  
___ 15:12 IV Vancomycin (1000 mg ordered) 
___ 15:26 IV Thiamine 100 mg  
___ 16:34 IV MetRONIDAZOLE (FLagyl) 500 mg 
  
- Vitals on transfer:  61 ___ 98% Nasal Cannula. Prior to 
accepting patient discussion had with ED resident and senior 
resident. They report that patient is AOx3 with normal 
mentation. They are unsure if patient had a seizure. Do not 
think the patient is withdrawing and need treatment for ETOH 
withdrawal seizures. Per their discussion with neurosurgery they 
do not believe that patient has had a seizure. No seizure like 
activity while in the ED. Patients hypotension has resolved and 
patient is being admitted due to concern for pneumonia given CXR 
findings. 

Upon arrival to the floor, the patient was confused oriented to 
self and to year only. Was having difficulty distinguishing the 
events of his prior ED visit from today. He was unable to recall 
his medications, denies any significant past medical history. He 
says his last drink was weeks ago. He denies all symptoms 
claiming that he feels fine. 
 
Past Medical History:
Left above knee amputation. He has been brought to the ED 
multiple times for +etoh, falls, being found down and LLE pain

Unlear full PMH as patient is unreliable historian

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
Vitals- 98.3 | 138/90 | 70 | 18 | 95% RA 
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  Moist mucous 
membranes, poor dentition.  Oropharynx is clear.
NECK: Thyroid is normal in size and texture, no nodules.  No 
cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD appreciated
LUNGS: Bibasilar crackles. Otherwise clear to auscultation 
bilaterally
BACK: Skin intact. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants.  No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally except for 
amputation at the femur 
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact.  ___ strength througout.  Normal 
sensation.  No ataxia, dysmetria, disdiadochokinesia.  Unable to 
assess gait as patient does not have crutches in the room.

=====================
DISCHARGE PHYSICAL EXAM
======================
Vitals- 97.9 | 120s-130s/80s | 60s-80s | 18 | 98% RA 
GENERAL: AO to self, hospital, president. NAD
HEENT: Normocephalic, Left-sided discoloration on forehead.  
Pupils equal, round, and reactive bilaterally, extraocular 
muscles intact.  Moist mucous membranes, poor dentition.  
Oropharynx is clear.
NECK:  No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD appreciated
LUNGS: Bibasilar crackles. Otherwise clear to auscultation 
bilaterally
BACK: Skin intact. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants.  No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally except for 
amputation at the femur 
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 grossly intact.  ___ strength througout.  
Normal sensation. No ataxia.
 
Pertinent Results:
ADMISSION LABS
==============

___ 12:40PM BLOOD WBC-8.5 RBC-4.71 Hgb-14.2 Hct-43.3 MCV-92 
MCH-30.1 MCHC-32.8 RDW-13.1 RDWSD-44.4 Plt ___
___ 12:40PM BLOOD Neuts-49.6 ___ Monos-9.8 Eos-1.4 
Baso-0.6 Im ___ AbsNeut-4.20 AbsLymp-3.26 AbsMono-0.83* 
AbsEos-0.12 AbsBaso-0.05
___ 12:40PM BLOOD ___ PTT-30.3 ___
___ 12:40PM BLOOD Glucose-103* UreaN-16 Creat-0.8 Na-134 
K-9.3* Cl-100 HCO3-25 AnGap-18
___ 12:40PM BLOOD cTropnT-<0.01 proBNP-312*
___ 12:40PM BLOOD Calcium-9.0 Phos-6.4* Mg-1.9
___ 03:45PM BLOOD VitB12-299
___ 03:45PM BLOOD TSH-1.8
___ 03:45PM BLOOD HIV Ab-Negative
___ 12:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:40PM BLOOD LtGrnHD-HOLD
___ 12:56PM BLOOD Lactate-1.4 K-5.9*
___ 02:17PM BLOOD K-3.9
___ 09:10PM URINE Color-Straw Appear-Clear Sp ___
___ 09:10PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 09:10PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

=================
MICROBIOLOGY
=================
___ 3:45 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

___ 3:45 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 7:41 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

___ 9:10 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL.

================
PERTINENT IMAGING
================
___ HEAD W/O CONTRAST
1. Compared to ___, no new intracranial hemorrhage.
2. No significant change in a leftholohemispheric subdural 
hematoma, measuring
0.4 cm in greatest thickness without significant mass effect or 
midline shift.
As before, there is a small amount of subdural blood layering on 
the left
tentorium.
3. No acute large territory infarct.

___ (PA & LAT)
Diffuse lung disease, likely representing mild pulmonary edema 
with multifocal
pneumonia not excluded.

___ CHEST W/O CONTRAST
1. No evidence of pulmonary edema or other interstitial 
pulmonary process, as
clinically questioned.
2. There is a sclerotic focus in the right posterolateral eighth 
rib, of
indeterminate clinical significance.  Recommend rib series 
radiographs in 3
months for further evaluation.
3. There is a 0.2 cm left apical pulmonary nodule.  Per 
___
recommendations, no follow-up is necessary.

___
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 
IMPRESSION: Mild global left ventricular systolic dysfunction. 
No clinically-significant valvular disease seen. 

===========
DISCHARGE LABS
=============

___ 08:05AM BLOOD WBC-8.5 RBC-4.26* Hgb-12.8* Hct-39.6* 
MCV-93 MCH-30.0 MCHC-32.3 RDW-13.0 RDWSD-44.4 Plt ___
___ 08:05AM BLOOD Glucose-80 UreaN-17 Creat-0.8 Na-140 
K-3.9 Cl-102 HCO3-25 AnGap-17
___ 08:05AM BLOOD Calcium-8.7 Phos-3.3 Mg-2.3
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with chronic alcohol use 
disorder s/p multiple falls c/b SDH (___), who was sent to the 
ED after he was found down with reported seizure activity and 
subsequently admitted to the hospital with AMS and concern for 
interstitial pneumonia vs pulmonary edema on chest x-ray. 

#AMS: On arrival to the medical floor, patient was alert, 
oriented only to self. Differential of the patient's AMS was 
likely EtOH encephalitis, metabolic encephalitis, Wernicke's 
encephalopathy, infectious process, or post-ictal from seizures 
secondary to EtOH withdrawal vs provoked from ___. Due to 
concern for chronic alcohol use, patient was given high dose 
thiamine (3 days) and folate empirically. Patient did not score 
on a CIWA scale during his stay. CT of the head showed a stable 
SDH compared to CT from the previous week. Metabolic workup 
included a TSH that was within normal limits, and a B12 level, 
which was at the low end of the normal range so he was given B12 
supplementation. His other chemistries, such as sodium and 
calcium, were within the normal range, making other metabolic 
derangements less likely. Infectious workup included a negative 
RPR. HIV test was pending at time of discharge. The patient's 
mental status improved and he was oriented to self, place 
(hospital, not what hospital), situation (admitted for a fall), 
and the date. 

# EtOH Use Disorder: Patient reports that he drinks 1 bottle of 
vodka every day. This information was confirmed by the ___ 
___ where he was staying. On arrival the 
patient had a negative tox screen for alcohol or other illicits. 
He was placed on a CIWA scale. He did not score on the CIWA 
scale and did not require medical management of withdrawal. He 
was given high dose thiamine, folate, and B12. He remained 
clinically stable throughout the hospital course and was 
discharged with thiamine, folate, and B12 supplementation. 
Patient was started on naltrexone to prevent his craving for 
alcohol. His urine opioid screen was negative. 

# ?Interstitial Pneumonia: In the ED the patient was slightly 
hypoxemic to SpO2 in the low ___. A CXR was performed and showed 
"diffuse lung disease, likely representing mild pulmonary edema 
with multifocal pneumonia not excluded." There was low suspicion 
for multifocal pneumonia d/t low white count, no cough, and 
afebrile. BNP was in 300s and Troponins were < 0.01. There were 
no other signs of volume overload. His lungs were clear on exam 
with no O2 requirement. 

# Fall c/b SDH: SDH was Stable on admission CT Head. Continued 
keppra for seizure prophylaxis per neurosurgery. However unclear 
if he had gotten the initial doses after his fall on ___. He 
will need to continue keppra till ___ to have finished a 7 day 
course. 

***TRANSITIONAL ISSUES*** 
=========================
CONTACTS/COLLATERAL: 
- Legal Guardian: ___
- ___: Case Manager PHONE: ___ 
- ___: ___ Crisis Center, Manager PHONE: ___ 
- ___ Crisis Center: Where patient was staying ___ 
PHONE: ___ 
PCP: ___ Phone: ___ 
NEW MEDICATIONS: 
- Keppra 1000mg BID x7 days for seizure prophylaxis after CT 
Head showed SDH. Initial fall ___ however unclear if he had 
been taking keppra after initial ED discharge. Last day should 
be ___
- Thiamine 100mg QDay daily
- Folate supplement daily 
- B12 (Cyanocobalamin) supplement daily
- Started on naltrexone 50mg daily to prevent ETOH abuse
- Lisinopril held as patient was not hypertensive and with 
normal Cr. Can consider restarting as an outpatient if 
hypertensive
- Omeprazole switched to pantoprazole given interaction with 
citalopram. 
- continue to counsel patient and find facility where patient 
may be able to get continued help for alcohol use
- patient will need review of recent medications as patient 
unclear as to the medications he is taking
- restart and adjust Haldol medication as needed (his mood was 
stable and he did not require any Haldol while in the hospital)
DATA TO FOLLOW-UP ON: 
- CXRs on ___ and ___ have been read as "evidence of 
pulmonary edema" CT chest was performed for further evaluation 
that was negative for interstitial pneumonia or edema. However 
there is a sclerotic focus in the right posterolateral eighth 
rib, of indeterminate clinical significance. Recommend rib 
series radiographs in 3 months for further evaluation.
- Methylmalonic acid (PENDING, sent ___ sent due to 
nondiagnostic B12 serum level. Started on B12 supplementation
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Citalopram 20 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Haloperidol 2 mg PO DAILY 
4. Lisinopril 30 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Naltrexone 50 mg PO DAILY 
7. Nicotine Patch 21 mg TD DAILY 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 1,000 mcg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*2 Tablet Refills:*0 
4.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
6.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
7.  Citalopram 20 mg PO DAILY  
8.  Haloperidol 2 mg PO DAILY  
9.  Naltrexone 50 mg PO DAILY 
RX *naltrexone 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
10.  Nicotine Patch 21 mg TD DAILY  
11. HELD- Lisinopril 30 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you talk to your doctor. Unclear 
if you have been taking this and the patient was normotensive in 
the hospital without this medication

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Altered Mental Status 
Pulmonary Edema 
Alcohol Abuse
Subdural hemorrhage
Recurrent falls secondary to alcohol use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___! You came to the 
emergency room because it was thought you had a seizure and were 
confused after drinking alcohol. You were admitted to the 
hospital because we were concerned that you had too much fluid 
in your lungs. We gave you medicine for your confusion and you 
got better. We did a scan of your lungs that showed and old rib 
fracture but otherwise no concerning finding. You were 
discharged from the hospital back to your home. Unfortunately we 
were unable to find you a facility to treat your alcohol abuse. 

It is important that you continue to take your medicine to 
prevent a seizure. This medicine is called Keppra. You should 
take this medicine twice every day until your medicine runs out. 


It is also important that you try and stop drinking alcohol. We 
realize this can be very difficult, so we have worked with your 
case manager, ___, and hope they can continue to find you a 
place to get treatment. We unfortunately were not able to find 
you a place that had openings or was willing to take you at this 
point. 

We discussed this with your guardian and your guardian is aware 
we are sending you home.  We have started you on vitamin B12, 
folic acid and thiamine to help you. Please continue to take 
this medications every day.  We are also starting you on a 
medication called naltrexone to help you stop the craving for 
alcohol. Please take this medication every day. Please stop 
drinking alcohol as it is a danger to your health. 

You will have a follow-up appointment with your primary doctor, 
___. 

It was a pleasure caring for you. 

Sincerely,

Your ___ Team 
 
Followup Instructions:
___